US09371320B2
B) methyl 4-(1-(4-methoxybenzyl)-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate
To a solution of 4-(1-(4-methoxybenzyl)-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylic acid (38.8 mg) in DMA (3 mL) were added EDCI hydrochloride (23.4 mg) and HOBt ammonium salt (18.6 mg) at room temperature, and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (basic silica gel, ethyl acetate/methanol) to give the title compound (31.4 mg).

reactant | 4-(1-(4-methoxybenzyl)-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylic acid | 38.8 mg | COC1=CC=C(CN2N=C(C=3C(NC=CC32)=O)C=3C=C(SC3)C(=O)O)C=C1 | C19H15N3O4S
reactant | EDCI hydrochloride | 23.4 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | methyl 4-(1-(4-methoxybenzyl)-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate | 31.4 mg | COC1=CC=C(CN2N=C(C=3C(NC=CC32)=O)C=3C=C(SC3)C(=O)OC)C=C1 | C20H17N3O4S
